US04472409
1. 4-Trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)sulfinyl]-(1H)-benzimidazole
2.3 g of commercially available 85% strength m-chloroperoxybenzoic acid, dissolved in 30 ml of methylene chloride, are added dropwise to a solution, cooled to -30° C., of 3.0 g (0.0088 mole) of 4-trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)thio]-(1H)-benzimidazole in 50 ml of methylene chloride over the course of 45 minutes. The resulting mixture is then stirred for a further 60 minutes, and the temperature is subsequently allowed to rise to 0° C. After the mixture is washed with saturated aqueous sodium carbonate solution (30 ml), it is dried over sodium sulfate, and the solvent is stripped off in vacuo. The solid residue which remains is recrystallized successively from isopropanol and acetonitrile. Yield: 1.6 g of title compound, m.p. 150° to 151° C.

reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 4-trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)thio]-(1H)-benzimidazole | 0.0088 mole, 3.0 g | FC(C1=CC=CC=2NC(=NC21)SCC2=NC=CC(=C2)OC)(F)F | C15H12F3N3OS
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-Trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)sulfinyl]-(1H)-benzimidazole | FC(C1=CC=CC=2NC(=NC21)S(=O)CC2=NC=CC(=C2)OC)(F)F | C15H12F3N3O2S
